US09353093B2
To the solution of 2-(4-amino-phenyl)-indole-1-carboxylic acid amide (125.5 mg, 0.5 mmol, 1 eq) and m-toluic acid (68.8 mg, 0.5 mmol, 1 eq) in anhydrous DCE (4 mL) was added DMAP (12.2 mg, 0.2 eq) and EDC (115.2 mg, 1.2 eq). The reaction mixture was heated at 60° C. for 1.5 hours. It was then cooled to room temperature, diluted with ethyl acetate, washed subsequently with aqueous NH4Cl, saturated aqueous NaHCO3, brine, and lastly dried with anhydrous sodium sulfate. The upper liquor was decanted, concentrated, and the solid residue was treated with EtOAC-Hex(2:1) with stirring. 2-{4-[(3-methylbenzoyl)amino]phenyl}-1H-indole-1-carboxamide was obtained as slightly brown solid upon filtration in amount of 165 mg (89%).

reactant | 2-(4-amino-phenyl)-indole-1-carboxylic acid amide | 0.5 mmol, 125.5 mg, 1 eq | NC1=CC=C(C=C1)C=1N(C2=CC=CC=C2C1)C(=O)N | C15H13N3O
reactant | m-toluic acid | 0.5 mmol, 68.8 mg, 1 eq | C1(=CC(=CC=C1)C(=O)O)C | C8H8O2
solvent | DCE | 4 mL | ClCCCl | C2H4Cl2
catalyst | DMAP | 12.2 mg, 0.2 eq | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | EDC | 115.2 mg, 1.2 eq
product | 2-{4-[(3-methylbenzoyl)amino]phenyl}-1H-indole-1-carboxamide | CC=1C=C(C(=O)NC2=CC=C(C=C2)C=2N(C3=CC=CC=C3C2)C(=O)N)C=CC1 | C23H19N3O2
